US04118561
8,9,10,11-Tetrahydro-7-methyl-7H-pyrimido[4,5-c]carbazole-1,3-diamine
Dry dimethylformamide (150 ml.), 4.62 g. 8,9,10,11-tetrahydro-7H-pyrimido[4,5-c]carbazole-1,3-diamine and 0.96 g. ca. 50% sodium hydride-mineral oil dispersion are stirred, under nitrogen, for 1 hour. A solution of 2.84 g. methyl iodide in 10 ml. dry dimethylformamide is added during 10 minutes and stirring is continued for ca. 2 hours. Glacial acetic acid (20 ml.) is added and the solvent is removed. The residue is stirred with 12 g. sodium methoxide-150 ml. methanol for 2 hours and the mixture is diluted with 750 ml. water. The solids are collected, washed with water, dried, twice recrystallized from methanol and thoroughly dried to yield 1.96 g. title compound, m.p. 288°-292° (softens 285°).

reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
reactant | 8,9,10,11-tetrahydro-7H-pyrimido[4,5-c]carbazole-1,3-diamine | C=1(N=C(N=C2C=CC=3NC=4CCCCC4C3C21)N)N | C14H15N5
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 8,9,10,11-Tetrahydro-7-methyl-7H-pyrimido[4,5-c]carbazole-1,3-diamine | CN1C=2CCCCC2C=2C=3C(C=CC12)=NC(=NC3N)N | C15H17N5
